US04730008
N-[(4-Iodophenyl)methyl]pentanamide
Valeric anhydride (3.7 g) was added dropwise to 4-iodobenzene methanamine (4.2 g) and pyridine (3.2 g) in MC (50 ml) at 0°. The solution was stirred at 0° for 10 min and at room temperature for 2 h, washed with aqueous sodium bicarbonate, dried and evaporated. The residue was crystallised from ER at -78° to give the title compound as a white solid (3.7 g) m.p. 80°-81°.

reactant | Valeric anhydride | 3.7 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
reactant | 4-iodobenzene methanamine | 4.2 g | IC1=CC=C(C=C1)CN | C7H8IN
solvent | pyridine | 3.2 g | N1=CC=CC=C1 | C5H5N
product | N-[(4-Iodophenyl)methyl]pentanamide | 3.7 g | IC1=CC=C(C=C1)CNC(CCCC)=O | C12H16INO
